US06025370
In 350 ml of tetrahydrofuran was dissolved 22.9 g of 2,6-difluoroanisole, and to the solution was added dropwise 110 ml of a 1.6 M solution of n-butyllithium in n-hexane at -70° C. over a period of 30 minutes. The resulting mixture was stirred at the same temperature for 1 hour, and carbon dioxide was introduced thereinto, after which the mixture was heated to 0° C. over a period of 1 hour. The reaction mixture was added to a mixed solvent of 300 ml of ethyl acetate and 700 ml of water and the pH was adjusted to 1 with 6N hydrochloric acid, after which the organic layer was separated. The organic layer obtained was washed with a saturated aqueous sodium chloride solution, followed by adding thereto a solution of diazomethane in diethyl ether, and the resulting mixture was stirred at room temperature for 10 minutes and distilled under reduced pressure to remove the solvent. The resulting residue was purified by a column chromatography (eluent; n-hexane:ethyl acetate=10:1) to obtain 16.8 g of methyl 2,4-difluoro-3-methoxybenzoate as colorless crystals.

reactant | 2,6-difluoroanisole | 22.9 g | FC1=C(C(=CC=C1)F)OC | C7H6F2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | water | 700 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2,4-difluoro-3-methoxybenzoate | 16.8 g | FC1=C(C(=O)OC)C=CC(=C1OC)F | C9H8F2O3
